US09303012B2
(R)-1-[5-Cyclopropyl-6-(2,2,3,3,3-pentafluoro-propoxy)-pyridine-2-carbonyl]-4,4-difluoro-pyrrolidine-2-carboxylic acid amide
The title compound was synthesized in analogy to Example 47 b, using 5-cyclopropyl-6-(2,2,3,3,3-pentafluoro-propoxy)-pyridine-2-carboxylic acid (30 mg, 96 μmol) and (2R)-4,4-difluoropyrrolidine-2-carboxamide hydrochloride (CAN 1315053-41-8; 19.8 mg, 106 μmol) as starting materials and isolated (38 mg, 89%) as white solid; LC-MS (UV peak area, ESI) 97%, 444.1155 [MH+].

reactant | 5-cyclopropyl-6-(2,2,3,3,3-pentafluoro-propoxy)-pyridine-2-carboxylic acid | 96 μmol, 30 mg | C1(CC1)C=1C=CC(=NC1OCC(C(F)(F)F)(F)F)C(=O)O | C12H10F5NO3
reactant | (2R)-4,4-difluoropyrrolidine-2-carboxamide hydrochloride | 106 μmol, 19.8 mg | Cl.FC1(C[C@@H](NC1)C(=O)N)F
product | (R)-1-[5-Cyclopropyl-6-(2,2,3,3,3-pentafluoro-propoxy)-pyridine-2-carbonyl]-4,4-difluoro-pyrrolidine-2-carboxylic acid amide | C1(CC1)C=1C=CC(=NC1OCC(C(F)(F)F)(F)F)C(=O)N1[C@H](CC(C1)(F)F)C(=O)N | C17H16F7N3O3
